US04366315
An excess of an ethereal diazomethane solution was added to an ice-cooled suspension of 5 gm of 7-benzamido-3-methyl-3-cephem-4-carboxylic acid-1-oxide in 150 ml of dichloromethane and the mixture was stirred for half an hour. Then, excess diazomethane was destroyed with acetic acid and methanol was added. The mixture was evaporated to dryness in vacuo and the residue was crystallized from methanol to obtain 4.5 gm (86.6% yield) of methyl 7-benzamido-3-methyl-3-cephem-4-carboxylate-1-oxide.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 7-benzamido-3-methyl-3-cephem-4-carboxylic acid-1-oxide | 5 gm | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2=O)C)C(=O)O)C1=O | C15H14N2O5S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | methyl 7-benzamido-3-methyl-3-cephem-4-carboxylate-1-oxide | 4.5 gm, 86.6% yield | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2=O)C)C(=O)OC)C1=O | C16H16N2O5S
